US06329405B1
(12b) 3-{Phenyl-[1-(3,5-difluorophenyl)ethylamino]methyl}phenylamine
In a similar manner to that described in Example (1b), a solution of isomer B of [(3-nitrophenyl)-phenylmethyl]-[1-(3,5-difluorophenyl)ethyl]amine (890 mg) in methanol (20 ml), nickel chloride hexahydrate (1.14 g) and sodium borohydride (363 mg) were reacted, to afford isomer B of the title compound (791 mg) as a colorless oil.

reactant | [(3-nitrophenyl)-phenylmethyl]-[1-(3,5-difluorophenyl)ethyl]amine | 890 mg | [N+](=O)([O-])C=1C=C(C=CC1)C(C1=CC=CC=C1)NC(C)C1=CC(=CC(=C1)F)F | C21H18F2N2O2
reactant | sodium borohydride | 363 mg | [BH4-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
catalyst | nickel chloride hexahydrate | 1.14 g | O.O.O.O.O.O.[Ni](Cl)Cl
product | 3-{Phenyl-[1-(3,5-difluorophenyl)ethylamino]methyl}phenylamine | 791 mg | C1(=CC=CC=C1)C(C=1C=C(C=CC1)N)NC(C)C1=CC(=CC(=C1)F)F | C21H20F2N2
